US07842685B2
2-(Isoindolin-5-yl)-5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridine (75 mg, 0.203 mmol) was dissolved in methanol (2.0 mL) and DCM (1 mL) before ethyl acrylate (27.1 μL, 0.244 mmol) and 1-methyl-2,3,4,6,7,8-hexahydro-1H-pyrimido[1,2-a]pyrimidine (1.457 μL, 10.15 μmol) were added and stirred at ambient temperature for 16 h. Methyl 3-(5-(5-(1-phenylcyclopropyl)-thiazolo[5,4-b]pyridin-2-yl)isoindolin-2-yl)propanoate was obtained after purification via flash chromatography. MS (ESI) m/z: Calculated: 455.2; Observed: 456.4 (M++H).

reactant | 2-(Isoindolin-5-yl)-5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridine | 0.203 mmol, 75 mg | C1NCC2=CC(=CC=C12)C=1SC2=NC(=CC=C2N1)C1(CC1)C1=CC=CC=C1 | C23H19N3S
reactant | DCM | 1 mL | C(Cl)Cl | CH2Cl2
reactant | ethyl acrylate | 0.244 mmol, 27.1 μL | C(C=C)(=O)OCC | C5H8O2
reactant | 1-methyl-2,3,4,6,7,8-hexahydro-1H-pyrimido[1,2-a]pyrimidine | 10.15 μmol, 1.457 μL | CN1C=2N(CCC1)CCCN2 | C8H15N3
solvent | methanol | 2.0 mL | CO | CH4O
product | Methyl 3-(5-(5-(1-phenylcyclopropyl)-thiazolo[5,4-b]pyridin-2-yl)isoindolin-2-yl)propanoate | C1(=CC=CC=C1)C1(CC1)C1=CC=C2C(=N1)SC(=N2)C=2C=C1CN(CC1=CC2)CCC(=O)OC | C27H25N3O2S
